US07700655B2
(1) 2-Acetoxy-5-chloro-N-(3-carbamoylphenyl)benzamide
Using 2-acetoxy-5-chlorobenzoic acid and 3-aminobenzamide as the raw materials, the same operation as the Example 24 gave the title compound.

reactant | 2-acetoxy-5-chlorobenzoic acid | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)Cl | C9H7ClO4
reactant | 3-aminobenzamide | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
product | 2-Acetoxy-5-chloro-N-(3-carbamoylphenyl)benzamide | Yield: 15.8% | C(C)(=O)OC1=C(C(=O)NC2=CC(=CC=C2)C(N)=O)C=C(C=C1)Cl | C16H13ClN2O4
